US04537893
Five grams of trans-(±)-1-n-propyl-6-oxodecahydroquinoline were dissolved in 30 ml. of glacial acetic acid. Five and eight tenths milliliters of 37% by weight hydrogen bromide in glacial acetic acid were added followed by the dropwise additions of 1.5 ml. of bromine dissolved in glacial acetic acid. The reaction mixture was illuminated with ultraviolet radiation using a commercially available sunlamp. The illuminated reaction mixture was stirred for one-half hour after all the reactants had been added. Volatile constituents were removed from the reaction mixture in vacuo yielding, as a residue, trans-(±)-1-n-propyl-6-oxo-7-bromodecahydroquinoline hydrobromide. One hundredth mole of this salt was dissolved in 50 ml. of ethanol. Eighty-four hundredths grams of thiourea were added thereto. The resulting mixture was refluxed for about 18 hours under a nitrogen blanket. A colorless solid began to form after about 20 minutes. The reaction mixture was cooled to about 0° C. and the solid, which had continued to form, was separated by filtration. The filter cake was dried in vacuo. One and fifteen hundredths grams of trans-(±)-2-amino-5-n-propyl-4,4a,5,6,7,8,8a,9-octahydrothiazolo[4,5-g]quinoline dihydrobromide salt were obtained. The salt melted above 255° C., tlc (9:1 chloroform:methanol plus a trace of ammonium hydroxide) Rf =0.13.

reactant | trans-(±)-1-n-propyl-6-oxodecahydroquinoline | Five grams | C(CC)N1CCC[C@@H]2CC(CC[C@@H]12)=O | C12H21NO
reactant | hydrogen bromide | Br | BrH
reactant | bromine | BrBr | Br2
reactant | thiourea | NC(=S)N | CH4N2S
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | C(C)O | C2H6O
product | trans-(±)-2-amino-5-n-propyl-4,4a,5,6,7,8,8a,9-octahydrothiazolo[4,5-g]quinoline dihydrobromide salt | Br.Br.NC=1SC2=C(C[C@@H]3CCCN([C@H]3C2)CCC)N1 | InChI=1S/C13H21N3S.2BrH/c1-2-5-16-6-3-4-9-7-10-12(8-11(9)16)17-13(14)15-10;;/h9,11H,2-8H2,1H3,(H2,14,15);2*1H/t9-,11-;;/m0../s1
